datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(C)[NH+:10]([H])C([H])C(C)C1O>>[NH:10]([H])C([H])C(C)C([C:20](C)=[O:21])O 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)C1=CC=CC=C1)[H]>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[NH:10]([H])C1=C(C(C)[C:20](OC)=[O:21])C=CC=C1>>[O-:21][C:20]2([NH+:10]([H])C(C=CC=C3)=C3C2C)OC 10=20;20,21=21"
"[OH:10]C(C)/C(C)=C([C:20](OCC)=[OH+:21])/[H]>>[OH:21][C:20]1(OCC)[OH+:10]C(C)C(C)=C1[H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CCCCCC)[H]>>CCN([C:20]1(OC(C(C([O:21]1)[H])C)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])[H])[H]>>[OH:21][CH:20]2(C)C3=C(C(C([OH+:10]2)[H])[H])C=CC=C3 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OCC)CCCCCC)([O-:21])C>>C1(C([O:21][C:20](O1)([O-:10])OCC)C)CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])[H].[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])[H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([Na])C([H])C(O)=C1C>>[O:10]([Na])C([H])/C(O)=C([C:20](OC)=[O:21])/C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C([H])[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)CC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
